US08242130B2
1-(2-Hydroxyphenyl)-3-(4-methoxy-2-nitrophenyl)propane-1,3-dione (5.92 g, 18.77 mmol) was dissolved in a mixture of 48% HCl (2 mL) and acetic acid (35 mL) and heated at 100° C. for 1 h. The reaction mixture was cooled to rt, diluted with water and extracted with ethyl acetate. The organic layer was washed with water, brine, dried and concentrated to give the crude compound, which was purified by column chromatography using 5% ethyl acetate in CH2Cl2 to give 2-(4-methoxy-2-nitrophenyl)-4H-chromen-4-one (3.92 g, 70%).

reactant | 1-(2-Hydroxyphenyl)-3-(4-methoxy-2-nitrophenyl)propane-1,3-dione | 18.77 mmol, 5.92 g | OC1=C(C=CC=C1)C(CC(=O)C1=C(C=C(C=C1)OC)[N+](=O)[O-])=O | C16H13NO6
solvent | HCl | 2 mL | Cl | ClH
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(4-methoxy-2-nitrophenyl)-4H-chromen-4-one | 3.92 g, 70% | COC1=CC(=C(C=C1)C=1OC2=CC=CC=C2C(C1)=O)[N+](=O)[O-] | C16H11NO5
